US06028223
A solution of p-nitrohippuric acid (5.6 g) in DMF (25 ml) was treated with DSC (9.6 g) and a catalytic amount of DMAP. After 5 hours, a solution of ethyl 3-amino-3-(3-pyridyl)propanoate 2HCl (8 g) and K2CO3 (2 g) in saturated aqueous NaHCO3 (25 ml) was added. The reaction mixture was stirred overnight at room temperature. H2O (25 ml) was added and the mixture was filtered. The resulting solid was washed with H2O (25 ml), slurried with CH3CN (25 ml) and filtered. Ethyl β-[[2-[[[3-nitrophenyl)carbonyl]amino]acetyl]amino]pyridine-3-propanoate (6.5 g) was obtained as a white solid. MS was consistent with the desired product.

reactant | p-nitrohippuric acid | 5.6 g | [N+](=O)([O-])C1=CC=C(C(NCC(=O)O)=O)C=C1 | C9H8N2O5
reactant | ethyl 3-amino-3-(3-pyridyl)propanoate 2HCl | 8 g | Cl.Cl.NC(CC(=O)OCC)C=1C=NC=CC1
reactant | K2CO3 | 2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 25 ml | O | H2O
reactant | DMF | 25 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | NaHCO3 | 25 ml | C(=O)(O)[O-].[Na+]
product | Ethyl β-[[2-[[[3-nitrophenyl)carbonyl]amino]acetyl]amino]pyridine-3-propanoate | 6.5 g | [N+](=O)([O-])C=1C=C(C=CC1)C(=O)NCC(=O)NC(CC(=O)OCC)C=1C=NC=CC1 | C19H20N4O6
